US08283353B2
4′-{[4-(3-{[tert-butyl(dimethyl)silyl]oxy}-1,5-dioxaspiro[5.5]undec-9-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
4′-{[4-(3-Hydroxy-1,5-dioxaspiro[5.5]undec-9-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (1.5 g) and 2,6-lutidine (0.50 mL) were dissolved in tetrahydrofuran (5 mL), and tert-butyl(dimethyl)silyl trifluoromethanesulfonate (0.98 mL) was added at 0° C. The mixture was stirred at room temperature for 1.5 hr. Ethyl acetate and water were added to the reaction mixture, the mixture was added to 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound as a colorless solid (1.9 g, 100%).

reactant | 4′-{[4-(3-Hydroxy-1,5-dioxaspiro[5.5]undec-9-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 1.5 g | OC1COC2(OC1)CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=CN1 | C31H33N5O4
reactant | 2,6-lutidine | 0.50 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyl(dimethyl)silyl trifluoromethanesulfonate | 0.98 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[4-(3-{[tert-butyl(dimethyl)silyl]oxy}-1,5-dioxaspiro[5.5]undec-9-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 1.9 g, 100% | [Si](C)(C)(C(C)(C)C)OC1COC2(OC1)CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=CN1 | C37H47N5O4Si
